US07018997B2
Step 2: 4,5,6,7-Tetrahydro-1,3a,3b,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid ethyl ester
Ethyl bromopyruvate (10.23 g) was added to the mixture of 5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (5.8 g) in 1,2-dimethoxyethane (320 mL). The reaction mixture was stirred for 5 hours at room temperature and concentrated to 100 mL under reduced pressure. The precipitate was obtained by an addition of diethyl ether (200 mL), followed by filtration. The precipitate was dissolved in ethanol (175 mL) and stirred for 20 hours at 110° C. in shield tube. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was treated with saturated potassium carbonate solution and extracted with chloroform. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then eluted with ethyl acetate—methanol (1/1). The title compound was obtained as a pale yellow solid (7.56 g, 77%). 1H-NMR (400 MHz, CDCl3) δ 1.42 (t, 3H, J=7.1 Hz), 2.14–2.25 (m, 4H), 3.11 (t, 2H, J=6.1 Hz), 4.37 (t, 2H, J=5.7 Hz), 4.41 (q, 2H, J=7.1 Hz), 7.57 (s, 1H).

reactant | Ethyl bromopyruvate | 10.23 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 5.8 g | N=1C(=NN2C1CCCC2)N | C6H10N4
solvent | 1,2-dimethoxyethane | 320 mL | COCCOC | C4H10O2
product | 4,5,6,7-Tetrahydro-1,3a,3b,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(N3CCCCC3=N2)C1 | C11H14N4O2
